* LC Run Test
* Model Includes and Std Cell Includes

.param mc_mm_switch=0
.param mc_pr_switch=0

* Full paths dont work apparently only relative paths
.lib ../../../../../../PDK/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include ../../../../../../PDK/open_pdks/sky130/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice
.include ../../../../../../PDK/open_pdks/sky130/sky130A/libs.ref/sky130_fd_sc_hs/spice/sky130_fd_sc_hs.spice
.include ../../../../../../PDK/open_pdks/sky130/sky130A/libs.ref/sky130_fd_sc_ms/spice/sky130_fd_sc_ms.spice
.include ../../../../../../PDK/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130_fd_pr__model__inductors.model.spice


** LC Core
.include "LC_Cell.spice"
.include "swcap_3M2C.spice"

.param pvdd = 1.8
.param bias = 1.0
.param Icurr = 600u
**.param Icurr = 1260u
.param psw0 = 1.8
.param psw1 = 0.0
.param psw2 = 0.0
.param psw3 = 0.0
.param psw4 = 0.0
.param psw5 = 0.0
.param psw6 = 0.0
.param psw7 = 0.0



* --- Voltage Sources ---
vvdd VDD 0 dc 'pvdd'
*vvss GND 0 dc 0
*vsig VDD 0 pwl(0 0 0.10n 0 0.20n 'pvdd')
*vvdd VDD GND 'pvdd'
vsw0 sw0 0 'psw0'
vsw1 sw1 0 'psw1'
vsw2 sw2 0 'psw2'
vsw3 sw3 0 'psw3'
vsw4 sw4 0 'psw4'
vsw5 sw5 0 'psw5'
vsw6 sw6 0 'psw6'
vsw7 sw7 0 'psw7'

***--Load
**Coutp outp outpndc 300f
**Coutn outn outnndc 300f
Clp outp 0 10f
Cln outn 0 10f


Idctail VDD tail_c 'Icurr'
* ---LCCell Subcircuit------
xlccore tail_c outn outp open VDD 0 LC_Cell_3
xswcap_3M2C outn outp sw7 sw6 sw5 sw4 sw3 sw2 sw1 sw0 0 swcap_3M2C

** Initial Condition**
.ic v(outn)='pvdd'
.ic v(outp)= 0
*.ic v(xmim_1m2C.net1)= 0
*.ic v(xmim_1m2C.net2)= 0
*.ic v(xmim_1m2C.net1)= 0
*.ic v(xmim_1m2C.net2)= 0
*.ic v(xmim_1m2C.net1)= 0
*.ic v(xmim_1m2C.net2)= 0
*.ic v(xmim_1m2C.net1)= 0
*.ic v(xmim_1m2C.net2)= 0
*.ic v(xmim_1m2C.net1)= 0
*.ic v(xmim_1m2C.net2)= 0
*.ic v(xmim_1m2C.net1)= 0
*.ic v(xmim_1m2C.net2)= 0


* --- Transient Analysis ---
.probe all
.save all
.tran 1p 100n UIC

* --- Measurement ---
*.print tran v(outp)
*.print tran v(outn)
*.print tran v(VDD)

.width out = 256
** Continous measure
**.measure tran_cont AVG tpdlh TRIG v(vi)=0.9 FALL=1 TARG v(voclk)=0.9 RISE=1
*** Single Measure

.control
option numdgt =7
run
save all
set filetype=ascii
set appendwrite TRUE
set wr_singlescale TRUE
echo "alterparam psw0=1.8" > LC_run_sw1.out
echo "time outp outn sw0 sw1 sw2 sw3 sw4 sw5 sw6 sw7" >> LC_run_sw1.out
wrdata LC_run_sw1.out v(outp) v(outn) v(sw0) v(sw1) v(sw2) v(sw3) v(sw4) v(sw5) v(sw6) v(sw7)
alterparam psw1=1.8
reset
set appendwrite TRUE
set wr_singlescale TRUE
run
echo "alterparam psw1=1.8" > LC_run_sw2.out
echo "time outp outn sw0 sw1 sw2 sw3 sw4 sw5 sw6 sw7" >> LC_run_sw2.out
wrdata LC_run_sw2.out v(outp) v(outn) v(sw0) v(sw1) v(sw2) v(sw3) v(sw4) v(sw5) v(sw6) v(sw7)
alterparam psw2=1.8
reset
set appendwrite TRUE
set wr_singlescale TRUE
run
echo "alterparam psw1=1.8 psw2=1.8" > LC_run_sw3.out
echo "time outp outn " >> LC_run_sw3.out
wrdata LC_run_sw3.out v(outp) v(outn) v(sw0) v(sw1) v(sw2) v(sw3) v(sw4) v(sw5) v(sw6) v(sw7)
alterparam psw3=1.8
reset
set appendwrite TRUE
set wr_singlescale TRUE
run
echo "alterparam psw1=1.8 psw2=1.8 psw3=1.8" > LC_run_sw4.out
echo "time outp outn sw0 sw1 sw2 sw3 sw4 sw5 sw6 sw7" >> LC_run_sw4.out
wrdata LC_run_sw4.out v(outp) v(outn) v(sw0) v(sw1) v(sw2) v(sw3) v(sw4) v(sw5) v(sw6) v(sw7)
alterparam psw4=1.8
reset
set appendwrite TRUE
set wr_singlescale TRUE
run
echo "alterparam psw1=1.8 psw2=1.8 psw3=1.8 psw4=1.8" >  LC_run_sw5.out
echo "time outp outn sw0 sw1 sw2 sw3 sw4 sw5 sw6 sw7" >> LC_run_sw5.out
wrdata LC_run_sw5.out v(outp) v(outn) v(sw0) v(sw1) v(sw2) v(sw3) v(sw4) v(sw5) v(sw6) v(sw7)
alterparam psw5=1.8
reset
set appendwrite TRUE
set wr_singlescale TRUE
run
echo "alterparam psw1=1.8 psw2=1.8 psw3=1.8 psw4=1.8" >  LC_run_sw6.out
echo "time outp outn sw0 sw1 sw2 sw3 sw4 sw5 sw6 sw7" >> LC_run_sw6.out
wrdata LC_run_sw6.out v(outp) v(outn) v(sw0) v(sw1) v(sw2) v(sw3) v(sw4) v(sw5) v(sw6) v(sw7)

alterparam psw6=1.8
reset
set appendwrite TRUE
set wr_singlescale TRUE
run
echo "alterparam psw1=1.8 psw2=1.8 psw3=1.8 psw4=1.8" >  LC_run_sw7.out
echo "time outp outn sw0 sw1 sw2 sw3 sw4 sw5 sw6 sw7" >> LC_run_sw7.out
wrdata LC_run_sw7.out v(outp) v(outn) v(sw0) v(sw1) v(sw2) v(sw3) v(sw4) v(sw5) v(sw6) v(sw7)
alterparam psw7=1.8
reset
set appendwrite TRUE
set wr_singlescale TRUE
run
echo "alterparam psw1=1.8 psw2=1.8 psw3=1.8 psw4=1.8" >  LC_run_sw8.out
echo "time outp outn sw0 sw1 sw2 sw3 sw4 sw5 sw6 sw7" >> LC_run_sw8.out
wrdata LC_run_sw8.out v(outp) v(outn) v(sw0) v(sw1) v(sw2) v(sw3) v(sw4) v(sw5) v(sw6) v(sw7)
.endc

.measure tran tperiodR_P TRIG v(outp) val=1.8 TD=90n FALL=5 TARG v(outp) val=1.8 TD=90n FALL=6
.measure tran tperiodF_P TRIG v(outp) val=1.8 TD=90n RISE=5 TARG v(outp) val=1.8 TD=90n RISE=6
.measure tran tperiodR_N TRIG v(outn) val=1.8 TD=90n FALL=5 TARG v(outn) val=1.8 TD=90n FALL=6
.measure tran tperiodF_N TRIG v(outn) val=1.8 TD=90n RISE=5 TARG v(outn) val=1.8 TD=90n RISE=6

.measure tran outpmax MAX v(outp) from=90n to=100n
.measure tran outpmin MIN v(outp) from=90n to=100n
.measure tran outp_p2p PP v(outp) from=90n to=100n
.measure tran outnmax MAX v(outn) from=90n to=100n
.measure tran outnmin MIN v(outn) from=90n to=100n
.measure tran outp_p2p PP v(outn) from=90n to=100n

.end
